US07297816B2
(R)-3-(4-Chloro-phenyl)-2-[4-iodo-2-(quinoxaline-5-sulfonylamino)-benzoylamino]-propionic acid. (R)-2-(tert-Butoxycarbonylamino)-3-(4-chloro-phenyl)-propionic acid was treated as in EXAMPLE 2, Part A, to produce (R)-2-amino-3-(4-chloro-phenyl)-propionic acid methyl ester hydrochloride as a white solid. This ester was coupled with 4-iodo-2-(quinoxaline-5-sulfonylamino)-benzoic acid as in EXAMPLE 1, Part C. The resulting methyl ester was hydrolyzed as in EXAMPLE 2, Part E. HPLC: RT=9.74 min. MS (ESI−): mass calcd. for C24H18ClIN4O5S, 635.97; m/z found, 635/637 [M−H]−. 1H NMR (500 MHz, CDCl3): 10.93 (d, J=12.8, 1H), 8.99 (d, J=1.6, 1H), 8.92 (s, 1H), 8.54 (d, J=7.4, 1H), 8.31 (d, J=8.5, 1H), 8.10 (s, 1H), 7.90-7.87 (m, 1H), 7.30-7.22 (m, 3H), 7.05 (d, J=8.4, 2H), 6.84 (d, J=8.2, 1H), 6.29 (d, J=7.9, 1H), 4.93-4.80 (m, 1H), 3.24 (dd, J=14.3, 5.8, 1H), 3.16 (dd, J=14.2, 5.9, 1H).

reactant | (R)-3-(4-Chloro-phenyl)-2-[4-iodo-2-(quinoxaline-5-sulfonylamino)-benzoylamino]-propionic acid | ClC1=CC=C(C=C1)C[C@H](C(=O)O)NC(C1=C(C=C(C=C1)I)NS(=O)(=O)C=1C=2N=CC=NC2C=CC1)=O | C24H18ClIN4O5S
reactant | (R)-2-(tert-Butoxycarbonylamino)-3-(4-chloro-phenyl)-propionic acid | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)CC1=CC=C(C=C1)Cl | C14H18ClNO4
product | (R)-2-amino-3-(4-chloro-phenyl)-propionic acid methyl ester hydrochloride | Cl.COC([C@@H](CC1=CC=C(C=C1)Cl)N)=O | InChI=1S/C10H12ClNO2.ClH/c1-14-10(13)9(12)6-7-2-4-8(11)5-3-7;/h2-5,9H,6,12H2,1H3;1H/t9-;/m1./s1
